US04885363
50mM Bismuth(III) (1,4,7-triscarboxymethyl-1,4,7,10-tetraazacyclododecane) was prepared by combining 24.2 mg of bismuth nitrate with 100μl of 1M 1,4,7-triscarboxymethyl-1,4,7,10-tetraazacyclododecane and 140 μl of acid. The solution was adjusted to pH 3 with dilute sodium hydroxide. The mixture was heated at 88° C. until the bismuth nitrate dissolved (ca. 30 minutes). The solution was adjusted to pH 7.3 with dilute sodium hydroxide and reheated briefly at 88° C. until a small quantity of precipitate was dissolved. On cooling, the solution remained clear.

reactant | bismuth nitrate | 24.2 mg | [N+](=O)([O-])[O-].[Bi+3].[N+](=O)([O-])[O-].[N+](=O)([O-])[O-]
reactant | 1,4,7-triscarboxymethyl-1,4,7,10-tetraazacyclododecane | 1M, 100μl | C(=O)(O)CN1CCN(CCN(CCNCC1)CC(=O)O)CC(=O)O | C14H26N4O6
reactant | sodium hydroxide | [OH-].[Na+]
product | Bismuth(III) (1,4,7-triscarboxymethyl-1,4,7,10-tetraazacyclododecane) | 50mM | C(=O)(O)CN1CCN(CCN(CCNCC1)CC(=O)O)CC(=O)O.[Bi+3] | InChI=1S/C14H26N4O6.Bi/c19-12(20)9-16-3-1-15-2-4-17(10-13(21)22)6-8-18(7-5-16)11-14(23)24;/h15H,1-11H2,(H,19,20)(H,21,22)(H,23,24);/q;+3
